* FDDA (Auto-generated)
.subckt FDDA VDD Vpp Vpn Vnp Vnn Vcmfb Vb1 Vb2 Vb3 Vb4 Von Vop
XMP1 net5 Vpp net1 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP2 net6 Vpn net1 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP3 net6 Vnp net2 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP4 net5 Vnn net2 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP5 net3 Vcmfb VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP6 net4 Vcmfb VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP7 Von Vb4 net3 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP8 Vop Vb4 net4 VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP11 net1 Vb1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMP12 net2 Vb1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMN3 Von Vb3 net5 0 sky130_fd_pr__nfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMN4 Vop Vb3 net6 0 sky130_fd_pr__nfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMN9 net5 Vb2 0 0 sky130_fd_pr__nfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1
XMN10 net6 Vb2 0 0 sky130_fd_pr__nfet_01v8 L=1 W=1.0 nf=1 ad='int((1+1)/2) * 1.0/1 * 0.29' as='int((1+2)/2) * 1.0/1 * 0.29' pd='2*int((1+1)/2) * (1.0/1 + 0.29)' ps='2*int((1+2)/2) * (1.0/1 + 0.29)' nrd='0.29 / 1.0' nrs='0.29 / 1.0' sa=0 sb=0 sd=0
+ mult=1 m=1

.ends
